US06399631B1
N-(9-Ethyl-9H-carbazol-3-yl)-2-(6-amino-3-aza-bicyclo[3.1.0]hex-3-yl)-acetamide
3-[(9-Ethyl-9H-carbazol-3-ylcarbamoyl)-methyl]-3-aza-bicyclo[3.1.0]hex-6-yl}-carbamic acid tert-butyl ester was synthesized similarly to example 44, substituting 3-aza-bicyclo[3.1.0]hex-6-yl)-carbamic acid tert-butyl ester for 4-(4-Chlorophenyl)-4-hydroxypiperidine and substituting the compound of example 19 for the compound of example 40. A solution of {3-[(9-ethyl-9H-carbazol-3-ylcarbamoyl)-methyl]-3-aza-bicyclo[3.1.0]hex-6-yl}-carbamic acid tert-butyl ester (4.6 mmol) in 1:1 4 M HCl/dioxane (25 mL) was stirred at room temperature for 16 hours. The reaction mixture was then concentrated, and the residue was concentrated from diethyl ether (2×25 mL). The pale yellow foam remaining (723 mg, 37%) was N-(9-ethyl-9H-carbazol-3-yl)-2-(6-amino-3-aza-bicyclo[3.1.0]hex-3-yl)-acetamide.

reactant | carbamic acid tert-butyl ester | C(C)(C)(C)OC(N)=O | C5H11NO2
reactant | 4-(4-Chlorophenyl)-4-hydroxypiperidine | ClC1=CC=C(C=C1)C1(CCNCC1)O | C11H14ClNO
reactant | {3-[(9-ethyl-9H-carbazol-3-ylcarbamoyl)-methyl]-3-aza-bicyclo[3.1.0]hex-6-yl}-carbamic acid tert-butyl ester | 4.6 mmol | C(C)(C)(C)OC(NC1C2CN(CC12)CC(NC=1C=CC=2N(C3=CC=CC=C3C2C1)CC)=O)=O | C26H32N4O3
reactant | HCl dioxane | 4 M, 25 mL | Cl.O1CCOCC1
product | N-(9-Ethyl-9H-carbazol-3-yl)-2-(6-amino-3-aza-bicyclo[3.1.0]hex-3-yl)-acetamide | C(C)N1C2=CC=CC=C2C=2C=C(C=CC12)NC(CN1CC2C(C2C1)N)=O | C21H24N4O
